US04954509
1-(piperidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-5-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride
Prepared as Ex. No. 33, from 600 mg (2.31 mmoles) of 1-(piperidin-1-yl)methyl-5-methoxy-1,2,3,4-tetrahydroisoquinoline and 630 mg (2.82 mmoles) of 3,4-dichlorophenyl acetyl chloride in 20 ml of dry chloroform.

reactant | 1-(piperidin-1-yl)methyl-5-methoxy-1,2,3,4-tetrahydroisoquinoline | 2.31 mmoles, 600 mg | N1(CCCCC1)CC1NCCC2=C(C=CC=C12)OC | C16H24N2O
reactant | 3,4-dichlorophenyl acetyl chloride | 2.82 mmoles, 630 mg | ClC=1C=C(C=CC1Cl)CC(=O)Cl | C8H5Cl3O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(piperidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-5-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.N1(CCCCC1)CC1(NCCC2=C(C=CC=C12)OC)C(CC1=CC(=C(C=C1)Cl)Cl)=O | InChI=1S/C24H28Cl2N2O2.ClH/c1-30-22-7-5-6-19-18(22)10-11-27-24(19,16-28-12-3-2-4-13-28)23(29)15-17-8-9-20(25)21(26)14-17;/h5-9,14,27H,2-4,10-13,15-16H2,1H3;1H
